US09193720B2
A mixture of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((3-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.0325 g, 0.056 mmol) and LiOH (0.013 g, 0.564 mmol) in 9:1 EtOH/H2O (2 mL0 was refluxed for 3 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((3-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid (0.0269 g, 0.049 mmol, 87% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.39 (dt, J=5.8, 7.9 Hz, 1H), 7.25 (d, J=7.7 Hz, 1H), 7.16-7.23 (m, 2H), 7.01-7.10 (m, 4H), 5.95 (br. s., 1H), 5.12-5.19 (m, 2H), 3.62 (br. s., 1H), 2.88 (br. s., 1H), 2.65 (s, 3H), 2.23 (s, 3H), 1.24 (s, 9H), 0.87 (br.s., 3H), 0.67 (br. s., 3H). 6H of piperidine were not resolved. LCMS (M+H)=549.4.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((3-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.056 mmol, 0.0325 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)C)C | C35H45FN2O4
reactant | LiOH | 0.564 mmol, 0.013 g | [Li+].[OH-]
solvent | EtOH H2O | CCO.O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((3-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid | 0.049 mmol, 0.0269 g, 87% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)C)C | C33H41FN2O4
